US07709645B2
To a round bottom flask was combined 1.00 g (3.61 mmol) of 2-amino-5-iodo-benzoic acid methyl ester and 18.0 mL isopropyl alcohol. To the solution was added 541 mg (4.05 mmol) of N-chlorosuccinimide and the solution was heated at 80° C. in an oil bath for 2.25 hours. The solution was cooled to room temperature and concentrated. The resulting residue was dissolved in ethyl acetate and an aqueous solution of sodium bisulfite was added. The organic layer was washed three times with water and brine, then dried over sodium sulfate. The organic layer was concentrated to dryness and recrystallized from hexanes to afford 809 mg (2.60 mmol, 72% yield) of 2-amino-3-chloro-5-iodo-benzoic acid methyl ester as tan-orange crystals. 1H NMR (500 MHz, DMSO-d6) δ 7.96 (d, 1H), 7.74 (d, 1H), 6.86 (s, br., 2H), 3.82 (s, 3H).

reactant | 2-amino-5-iodo-benzoic acid methyl ester | 3.61 mmol, 1.00 g | COC(C1=C(C=CC(=C1)I)N)=O | C8H8INO2
reactant | N-chlorosuccinimide | 4.05 mmol, 541 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | isopropyl alcohol | 18.0 mL | C(C)(C)O | C3H8O
product | 2-amino-3-chloro-5-iodo-benzoic acid methyl ester | 2.60 mmol, 809 mg, 72% yield | COC(C1=C(C(=CC(=C1)I)Cl)N)=O | C8H7ClINO2
